US06861162B2
1.78 g N,N-diethyl-p-nitrosoaniline and 2.67 g 3-phenyl-1-(2-pyridyl)-5-aminopyrazole were refluxed for 2 hrs in acetic acid. The mixture was concentrated to half volume. Water was added to get a precipitate, then filtered. The solid was purified by chromatograph column on silica gel. After removing the solvent, 1.3 g pure 7-diethylamino-3-phenyl-1-(2-pyridyl)-1H-pyrazolo[3,4-b]quinoxaline (DEPPPQ) was obtained as brown-red solid.

reactant | N,N-diethyl-p-nitrosoaniline | 1.78 g | C(C)N(C1=CC=C(C=C1)N=O)CC | C10H14N2O
reactant | 3-phenyl-1-(2-pyridyl)-5-aminopyrazole | 2.67 g | C1(=CC=CC=C1)C1=NN(C(=C1)N)C1=NC=CC=C1 | C14H12N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-diethylamino-3-phenyl-1-(2-pyridyl)-1H-pyrazolo[3,4-b]quinoxaline | 1.3 g | C(C)N(C1=CC=C2N=C3C(=NC2=C1)N(N=C3C3=CC=CC=C3)C3=NC=CC=C3)CC | C24H22N6
